US05965614
Synthesis of N-(3,4-dichlorophenyl)alanine Methyl Ester (R,S isomers)
Following General Procedure A above and using 3,4-dichloroaniline (Aldrich) and methyl pyruvate (Aldrich), the title compound was prepared as an oil. The reaction was monitored by tlc on silica gel (Rf=0.55 in 25% EtOAc/hexanes) and purification was by flash chromatography (silica gel using 25% EtOAc/hexanes as the eluant).

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | methyl pyruvate | C(C(=O)C)(=O)OC | C4H6O3
product | N-(3,4-dichlorophenyl)alanine Methyl Ester | COC([C@@H](NC1=CC(=C(C=C1)Cl)Cl)C)=O | C10H11Cl2NO2
